Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
R shoulder pain
 
Major Surgical or Invasive Procedure:
___ ORIF R humerus

 
History of Present Illness:
This is a deligthful ___ year-old woman RHD with Hx of severe RA 
who was in her USOH until the day of presentation when the 
patient sustained a mechanical fall, with immediate right arm 
pain. She does recall that she did not loose her consciousness. 
The patient was transferred from on OSH and presented to the ED 
for evaluation and the orthopaedic service was consulted when 
imaging was concerning for fracture. 

 
Past Medical History:
RA, HTN, HLD, shingles, h/o herpetic encephalopathy, feels like 
she has been declining over past year (refers to lumps in back 
of head which she does not have an explanation for), knee 
arthritis, back pain, wears Depends because she cannot make it 
to bathroom in time, s/p breast reduction

 
Social History:
Lives in retirement facility, has medical services. A Minimal 
smoking, no current alcohol or drugs

 
Physical Exam:
admit:
A&O x 3 
Calm and comfortable 
  
BUE skin clean and intact, nonthreatened.
Tender over right proximal humerus.  Pain with shoulder 
elevation, internal and external rotation.  
Arms and forearm compartments soft 
Axillary, Radial, Median, Ulnar SILT 
EPL FPL EIP EDC FDP DIO fire 
2+ radial pulses  bilaterally
Elbow stable to varus, valgus, rotatory stresses. 

d/c:
A&O x 3 
Calm and comfortable 
  
RUE
incision c/d/i
Arms and forearm compartments soft 
Axillary, Radial, Median, Ulnar SILT 
EPL FPL EIP EDC FDP DIO fire 
2+ radial pulses  bilaterally
Elbow stable to varus, valgus, rotatory stresses. 

 
Pertinent Results:
___ 02:00AM   GLUCOSE-120* UREA N-38* CREAT-1.2* SODIUM-139 
POTASSIUM-4.9 CHLORIDE-104 TOTAL CO2-24 ANION GAP-16
___ 02:00AM   estGFR-Using this
___ 02:00AM   WBC-12.3* RBC-3.73* HGB-10.1* HCT-32.5* 
MCV-87 MCH-27.1 MCHC-31.1 RDW-15.0
___ 02:00AM   NEUTS-77.3* LYMPHS-14.3* MONOS-7.3 EOS-0.6 
BASOS-0.4
___ 02:00AM   PLT COUNT-385
___ 02:00AM   ___ PTT-24.3* ___
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have R ___ humerus fx/dislocation and was admitted to the 
orthopedic surgery service.  The patient was taken to the 
operating room on ___ for ORIF R humerus, which the patient 
tolerated well (for full details please see the separately 
dictated operative report). The patient was taken from the OR to 
the PACU in stable condition and after recovery from anesthesia 
was transferred to the floor.  The patient was initially given 
IV fluids and IV pain medications, and progressed to a regular 
diet and oral medications by POD#1. The patient was given 
perioperative antibiotics and anticoagulation per routine.  The 
patients home medications were continued throughout this 
hospitalization.  The patient worked with ___ who determined that 
discharge to rehab was appropriate. The ___ hospital 
course was otherwise unremarkable.
 
At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, incisions were 
clean/dry/intact, and the patient was voiding/moving bowels 
spontaneously. The patient is NWB in the RUE extremity, and will 
be discharged on ASA 325mg for DVT prophylaxis.  The patient 
will follow up in two weeks per routine. A thorough discussion 
was had with the patient regarding the diagnosis and expected 
post-discharge course, and all questions were answered prior to 
discharge.

 
Medications on Admission:
Inderal LA 80 mg capsule,extended release oral QD
Nexium 40 mg capsule,delayed release oral QD
folic acid 1 mg tablet oral QD
prednisone 5 mg tablet oral QD
methotrexate sodium 25 mg/mL injection solution injection
0.5ml solution(s) Once monthly on the ___ (12.5mg)
leucovorin calcium 10 mg tablet oral
1 tablet(s) Once monthly on ___, 12 hours after 
methotrexate
Vitamin D3 400 unit capsule oral
1 capsule(s) Once Daily
lovastatin 20 mg tablet oral
1 tablet(s) Once Daily
___ 8.6 mg-50 mg tablet oral
alendronate 70 mg tablet oral
1 tablet(s) Once weekly on ___

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
2. Alendronate Sodium 70 mg PO QFRI 
3. Atorvastatin 20 mg PO DAILY 
4. Calcium Carbonate 1250 mg PO Q24H 
5. Docusate Sodium 100 mg PO BID 
6. Milk of Magnesia 30 ml PO BID:PRN Constipation 
7. NexIUM (esomeprazole magnesium) 40 mg oral qd 
8. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth q4hrs Disp 
#*30 Tablet Refills:*0
9. PredniSONE 5 mg PO DAILY 
10. Propranolol LA 80 mg PO DAILY 
11. Senna 1 TAB PO BID 
12. Vitamin D 1000 UNIT PO DAILY 
13. Aspirin 325 mg PO DAILY Duration: 6 Weeks 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
R proximal humerus fx/dislocation

 
Discharge Condition:
stable

 
Discharge Instructions:
Medications
You will be given a prescription for pain medicine.  The pain 
medication is a codeine derivative and should be taken as 
directed.  

Please take one full strength aspirin (325 mg) each day for six 
weeks to decrease the risk of having a complication related to a 
blood clot.

Please take a stool softener, like Colace (Docusate Sodium 
100mg), twice a day while taking narcotics to prevent 
constipation.

Dressing
Leave your dressing for 48 hours after your surgery.  After 48 
hours, you may remove your dressing.  LEAVE THE TAPE STRIPS OVER 
YOUR INCISIONS.  These will stay on for 1.5 to 2 weeks and will 
slowly peel off.

Showering
You may shower 48 hours after your surgery and get your 
incisions wet.  DO NOT immerse in a tub or pool for 7 – 10 days 
to avoid excessive scarring and risk of infection.

When you shower, let your arm hang at your side (Do NOT raise 
your arm).  

To wash under your arm, lean forward carefully and let your arm 
hang.  Using your other hand, wash under your operative arm.  Do 
NOT scrub the incision.  When you are done, stand up and let 
your arm hang at your side.  Pat yourself dry and put your sling 
on.

Ice Packs
Keep Ice Packs on at all times exchanging every hour while 
awake.  Icing is very important to decrease swelling and pain 
and improve mobility.  After 24 hours, continue to use the cuff 
3 – 4 times a day, 15 – 20 minutes each time to keep swelling to 
a minimum.

Activity
• Take it easy.
• Wear your sling for comfort and safety. 
• Keep your arm at your side at ALL TIMES – no reaching, 
grabbing or pulling with your operative arm.

When to Contact Us
If you experience severe pain that your pain medication does not 
help, please let us know. 

If you have a temperature over 101.5º, please contact our office 
at ___.

Physical Therapy:
Activity:   Activity:  Activity as tolerated Activity:  OOB to 
chair for meals
 Right lower extremity:  Non weight bearing
Encourage turn, cough and deep breathe q2h when awake

Treatments Frequency:
  Wound care: 
 Site: Incision 
 Type:  Surgical
 Dressing:  Gauze - dry
 Comment: To be changed DAILY by ___ starting POD ___. RN - please 
overwrap any dressing bleedthrough with ABDs and ACE 

 
Followup Instructions:
___